US08198296B2
To a solution of tert-butyl 4-oxopiperidine-1-carboxylate (15.2 g, 76.3 mmol) in benzene (200 mL) was added pyrrolidine (13.9 g, 195 mmol). The resulting solution was refluxed with a Dean-Stark trap for 16 h. After removing the solvent by rotary evaporation, the residue was dried on high vacuum and re-dissolved in anhydrous acetonitrile (200 mL). This solution was combined with triethylamine (17.3 g, 170 mmol) and maintained at reflux as methyl 3-bromo-2-(bromomethyl)propanoate (20 g, 77 mmol) was added drop-wise. The reaction was further refluxed for 4 h, cooled to ambient temperature, diluted with water (200 mL) and stirred at ambient temperature for 16 h. The volatile solvents were removed by rotary evaporation, and the residue was partitioned between chloroform and water (200 mL each). The aqueous layer was extracted with chloroform (2×100 mL). The combined organic extracts were dried over anhydrous sodium sulfate and concentrated by rotary evaporation. The residue was purified by flash chromatography, using an ethyl acetate in hexane gradient, to give 15.8 g (69.8% yield) of methyl 3-(tert-butoxycarbonyl)-9-oxo-3-azabicyclo[3.3.1]nonane-7-carboxylate, as a colorless syrup (1H NMR (CDCl3): δ 4.43-4.2 (m, 2H), 3.7 (s, 3H), 3.12-3.0 (m, 2H), 2.55-2.43 (m, 2H), 2.41-2.35 (m, 4H), 1.52 (s, 9H); LC-MS (MH+): 298).

reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 76.3 mmol, 15.2 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | pyrrolidine | 195 mmol, 13.9 g | N1CCCC1 | C4H9N
reactant | triethylamine | 170 mmol, 17.3 g | C(C)N(CC)CC | C6H15N
reactant | methyl 3-bromo-2-(bromomethyl)propanoate | 77 mmol, 20 g | BrCC(C(=O)OC)CBr | C5H8Br2O2
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
solvent | water | 200 mL | O | H2O
product | methyl 3-(tert-butoxycarbonyl)-9-oxo-3-azabicyclo[3.3.1]nonane-7-carboxylate | 15.8 g, 69.8% yield | C(C)(C)(C)OC(=O)N1CC2CC(CC(C1)C2=O)C(=O)OC | C15H23NO5
